US05264444
B. 3-(4-butylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
Methyl iodide (1 ml, 15 mmol) was added to a solution of 3-(4-butylthio-1,2,5-thiadiazol-3-yl)pyridine (0.6 g, 2.3 mmol) and the reaction mixture was stirred at room temperature for 48 h and evaporated.

reactant | Methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(4-butylthio-1,2,5-thiadiazol-3-yl)pyridine | 2.3 mmol, 0.6 g | C(CCC)SC=1C(=NSN1)C=1C=NC=CC1 | C11H13N3S2
product | 3-(4-butylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CCC)SC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C12H16N3S2.HI/c1-3-4-8-16-12-11(13-17-14-12)10-6-5-7-15(2)9-10;/h5-7,9H,3-4,8H2,1-2H3;1H/q+1;/p-1
